US08835426B2
A solution of 5-(3-methylbutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (2.76 g, 12 mmol) and (1-adamantylmethyl)amine (2 g, 12 mmol) in anhydrous 1,4-dioxane (10 mL) was heated under reflux for 2 h. Solvent was removed in vacuo. The residue was diluted with EtOAc (50 mL), washed with water, aq K2CO3 and brine, dried over Na2SO4 and concentrated to dryness. The residue was purified by chromatography on a silica gel column eluted with 20:1 PE/EtOAc to give the N-(1-adamantylmethyl)-5-methyl-3-oxohexanamide (1.90 g, 54.4%). 1H NMR: (400 MHz, CDCl3): δ=0.92 (s, 3H), 0.96 (s, 3H), 1.54 (s, 7H), 1.62-1.73 (m, 9H), 1.98 (s, 4H), 2.12(m, 1H), 2.45(d, 2H), 2.95(d, 2H), 3.65(s, 2H).

reactant | 5-(3-methylbutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 12 mmol, 2.76 g | CC(CC(=O)C1C(OC(OC1=O)(C)C)=O)C | C11H16O5
reactant | (1-adamantylmethyl)amine | 12 mmol, 2 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(1-adamantylmethyl)-5-methyl-3-oxohexanamide | 1.90 g, 54.4% | C12(CC3CC(CC(C1)C3)C2)CNC(CC(CC(C)C)=O)=O | C18H29NO2
